US08748415B2
Step 1. Preparation of 4-(N—(((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-9-(4-(tert-butoxycarbonyl)phenyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-3a-yl)methyl)sulfamoyl)benzoic acid
To a solution of tert-butyl 4-((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-3a-(aminomethyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-9-yl)benzoate (25 mg, 0.042 mmol) in DCM (2 ml) was added 4-(chlorosulfonyl)benzoic acid (9.19 mg, 0.042 mmol) and DIPEA (7.28 μl, 0.042 mmol). The resulting mixture was stirred for 48 h at rt. The mixture was diluted with 7 ml of sat. NaHCO3 and was extracted with dichloromethane (3×7 ml). The combined organic layers were dried with Na2SO4. The drying agent was removed by filtration and the filtrate was concentrated under reduced pressure. The crude product was used in the next step with no additional purification.

reactant | tert-butyl 4-((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-3a-(aminomethyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-9-yl)benzoate | 0.042 mmol, 25 mg | NC[C@]12[C@@H]([C@H]3CC[C@@H]4[C@]5(CC=C(C([C@@H]5CC[C@]4([C@@]3(CC1)C)C)(C)C)C1=CC=C(C(=O)OC(C)(C)C)C=C1)C)[C@@H](CC2)C(=C)C | C41H61NO2
reactant | 4-(chlorosulfonyl)benzoic acid | 0.042 mmol, 9.19 mg | ClS(=O)(=O)C1=CC=C(C(=O)O)C=C1 | C7H5ClO4S
reactant | DIPEA | 0.042 mmol, 7.28 μl | CCN(C(C)C)C(C)C | C8H19N
solvent | DCM | 2 ml | C(Cl)Cl | CH2Cl2
solvent | NaHCO3 | 7 ml | C(=O)(O)[O-].[Na+]
product | 4-(N—(((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-9-(4-(tert-butoxycarbonyl)phenyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-3a-yl)methyl)sulfamoyl)benzoic acid | C(C)(C)(C)OC(=O)C1=CC=C(C=C1)C=1C([C@@H]2CC[C@]3([C@@]4(CC[C@@]5([C@@H]([C@H]4CC[C@@H]3[C@]2(CC1)C)[C@@H](CC5)C(=C)C)CNS(=O)(=O)C5=CC=C(C(=O)O)C=C5)C)C)(C)C | C48H65NO6S
